US05514680
6-Cyano-1,4-dihydro-2,3-quinoxalinedione
The title compound was prepared using an adaptation of the method of Cheeseman. (Cheeseman, G. W. H. J. Chem. Soc. 1171 (1962)). A mixture of diethyl oxalate (3.90 g, 27.6 mmol) and 3,4-diaminobenzonitrile (275 mg, 2.06 mmol) was heated to reflux under N2 for 2 h. The reaction was allowed to cool to room temperature and the solid collected by vacuum filtration and rinsed with EtOH. The yellow brown solid was air dried to yield 156.6 mg (40.8%) which was >98% pure by 1H NMR. An analytically pure sample was prepared by recrystallization of 100 mg in 10 mL glacial acetic acid to give 21.2 mg of fine white crystals. 1H NMR (d6 -DMSO) δ7.20 (d, J=8.1, 1H, ArH), 7.39 (d, J=1.2, 1H, ArH), 7.50 (dd, J=1.2, J=8.4, 1H, ArH), 12.09 (s, 1H, NH), 12.22 (s, 1H, NH). EIMS m/z 187(87, M+), 159 (100, bp), 131(83), 104 (77), 77 (65), 53 (43), 28 (30). EIHRMS calc. for C9H5N3O2 187.0381, found 187.0377.

reactant | diethyl oxalate | 27.6 mmol, 3.90 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 3,4-diaminobenzonitrile | 2.06 mmol, 275 mg | NC=1C=C(C#N)C=CC1N | C7H7N3
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 6-Cyano-1,4-dihydro-2,3-quinoxalinedione | C(#N)C=1C=C2NC(C(NC2=CC1)=O)=O | C9H5N3O2
